US05447954
±(3R*, 5S*) 3-Carboxymethyl-5-[6-(2,4-dichlorophenyl)hexyl]3 -hydroxytetrahydrofuran-2-one
A mixture of ±(3R*, 5S*) 3-carboxy-11-(2,4-dichlorophenyl)-3,5-dihydroxyundecanoic acid, disodium salt (11.8 g, 25.1 mmol), aqueous HCl (3M, 200 ml), and tetrahydrofuran (200 ml) was heated at 60° C. for 6 h, then cooled. Most of the tetrahydrofuran was removed under vacuum. The residual mixture was diluted with water, and extracted with ether. The extracts were washed with water, saturated aqueous NaCl, and dried (MgSO4). The solvent was removed under vacuum, and the residue recrystallised (ether/petroleum ether 40°-60° C.) to give the title compound (8.80 g, 90%) as a white solid, m.p. 77°-79° C.

reactant | 3-carboxy-11-(2,4-dichlorophenyl)-3,5-dihydroxyundecanoic acid | C(=O)(O)C(CC(=O)O)(CC(CCCCCCC1=C(C=C(C=C1)Cl)Cl)O)O | C18H24Cl2O6
reactant | disodium | 25.1 mmol, 11.8 g | [Na][Na] | 2Na
reactant | HCl | 3M, 200 ml | Cl | ClH
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 3-Carboxymethyl-5-[6-(2,4-dichlorophenyl)hexyl]3 -hydroxytetrahydrofuran-2-one | 8.80 g, 90% | C(=O)(O)CC1(C(OC(C1)CCCCCCC1=C(C=C(C=C1)Cl)Cl)=O)O | C18H22Cl2O5
